US06127386
181c. 5-Allyl-3-(2-(S)-azetidinylmethoxy)pyridine hydrochloride
To a solution of 5-allyl-3-(1-methyl-2-(R)-pyrrolidinylmethoxy)pyridine in Et2O was added hydrogen chloride (1.0 M in Et2O) carefully to afford the tittle compound: 1H NMR (D2O) δ 2.70 (q, 2H, J=8.5 Hz), 3.49 (d, 2H, J=6.5 Hz), 4.02-4.20 (m, 2H), 4.44 (d, 2H, J=4.5 Hz), 4.95 (m, 1H), 5.12-5.20 (m, 2H), 6.05 (m, 1H), 7.53 (s, 1H), 8.15 (s, 1H), 8.24 (d, 1H, J=2.0 Hz); MS (CI/NH3) m/z 205 (M+H)+. Anal. Calcd for C12H16N2O.2 HCl.0.2 H2O: C, 54.14; H, 6.82; N, 10.52. Found: C, 54.30; H, 6.82; N, 10.49. [α]25D -3.5 (c 0.63, MeOH).

reactant | 5-allyl-3-(1-methyl-2-(R)-pyrrolidinylmethoxy)pyridine | C(C=C)C=1C=C(C=NC1)OC[C@@H]1N(CCC1)C | C14H20N2O
reactant | hydrogen chloride | 1.0 M | Cl | ClH
reactant | H2O | O | H2O
reactant | MeOH | CO | CH4O
solvent | Et2O | CCOCC | C4H10O
product | 5-Allyl-3-(2-(S)-azetidinylmethoxy)pyridine hydrochloride | Cl.C(C=C)C=1C=C(C=NC1)OC[C@H]1NCC1 | InChI=1S/C12H16N2O.ClH/c1-2-3-10-6-12(8-13-7-10)15-9-11-4-5-14-11;/h2,6-8,11,14H,1,3-5,9H2;1H/t11-;/m0./s1
